US09101135B2
(6-1) Production of ethyl 3-(2,2,2-trichloroethoxycarbonylamino)benzoate
To a solution prepared by adding 1.0 g of ethyl m-aminobenzoate and 0.72 g of pyridine to 10 ml of tetrahydrofuran and stirring the resultant mixture at room temperature was dropwise added a solution of 1.55 g of 2,2,2-trichloroethyl chloroformate in 5 ml of tetrahydrofuran. After the resultant mixture was stirred for 2 hours, ethyl acetate and water were added to the reaction solution, and a separating operation was performed. Then, an organic layer was separated and dried with anhydrous magnesium sulfate. The solution was filtered, and then the filtrate was collected, and the solvent of the filtrate was distilled off under reduced pressure. The residue was washed with hexane to obtain 1.89 g (yield 91%) of the title compound.

reactant | ethyl m-aminobenzoate | 1.0 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | pyridine | 0.72 g | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 1.55 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-(2,2,2-trichloroethoxycarbonylamino)benzoate | 1.89 g, yield 91% | ClC(COC(=O)NC=1C=C(C(=O)OCC)C=CC1)(Cl)Cl | C12H12Cl3NO4
